US08865935B2
In order to accomplish the above objects, an aspect of the present invention provides a method of purifying betulonic acid, including the steps of: a) injecting a Jones oxidation reagent (CrO3/c-H2SO4/H2O) into a mixed solution of acetone and betulin to obtain an organic synthesis reaction product and filtering and concentrating the obtained reaction product; b) introducing ethyl acetate into the concentrated reaction product to liquid-liquid extract betulonic acid; c) introducing a saturated aqueous sodium chloride solution (brine) into the ethyl acetate solution, in which the extracted betulonic acid is dissolved, to wash the ethyl acetate solution and remove impurities therefrom; d) introducing hexane or petroleum ether, as a nonpolar solvent, into the ethyl acetate solution to remove nonpolar substances, passing the washed ethyl acetate solution through an adsorption tower filled with aluminum oxide or silica gel, as a polar adsorbent, to remove polar substances, and then drying the ethyl acetate solution to produce betulonic acid (purity: more than 92%, yield to birch bark: 2.75 wt %); and e) dissolving the produced betulonic acid in a mixed solvent of ethanol and acetonitrile, separating and treating the mixed solution using a semi-preparative chromatography column filled with C18 stationary phase, and then drying the separated and treated mixed solution to produce high-purity betulonic acid (purity: more than 99.5%, yield to birch bark: 1.8 wt %).

reactant | acetone | CC(=O)C | C3H6O
reactant | betulin | CC(=C)[C@@H]1CC[C@]2([C@H]1[C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)O)C)CO | C30H50O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | betulonic acid | CC(=C)[C@@H]1CC[C@]2([C@H]1[C@H]3CC[C@@H]4[C@]5(CCC(=O)C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)C)C(=O)O | C30H46O3
